US04783453
Potassium azide (11.6 mg, 143. micromol) was added to a stirred ambient temperature solution of benzyl 2-(p-toluenesulfonyloxy)-carbapen-2-em-3-carboxylate (20.0 mg, 48.4 micro mol) prepared according to the analogous procedure described in U.S. Pat. No. 4,424,230, hereby incorporated by reference for this particular purpose, and 1, 4, 7, 10, 13, 16-hexaoxacyclooctadecane (12.8 mg, 48.4 micro mol) in anhydrous acetonitrile (1.0 ml) and dichloromethane (0.2 ml). After 1 hour the mixture was applied to two 20 cm×20 cm 250 micron silica gel preparative thin layer chromatography plates and developed with 3:2 (v/v) toluene-ethyl acetate. The band centered at Rf 0.6 was eluted with ethyl acetate and the elulate was evaporated under vacuum to provide 9.2 mg (67%) benzyl-2-azido-carbapen-2-em-3-carboxylate as a pale yellow glass. The glass was crystallized from 5:1 (v/v) diethyl etherdichloromethane to provide pale yellow rosettes of needles, m.p. 84°-85° C. (dec); I.R. (neat film): 2110, 1785, 1710, 1605, 1285, 1210, 1190 cm-1 ; NMR (CDCl3):δ (del) 2.99 dd (J1 =3 Hz, J2 =16 Hz, 1H), 3.07 d (J=9 Hz, 2H), 3.52 dd (J1 =5 Hz, J2 =16 Hz, 1H), 4.25 m (1H), 5.30 d (J=8 Hz, 1H), 5.33 d (J=8 Hz, 1H), 7.37 m (5H); UV (CH2Cl2) λmax (ε): 310 (10,000) nm; MS (m/e): 256 (M+ -N2), 243, 228, 214, 178, 162, 160, 127, 120, 107.

reactant | Potassium azide | 11.6 mg | [N-]=[N+]=[N-].[K+]
reactant | benzyl 2-(p-toluenesulfonyloxy)-carbapen-2-em-3-carboxylate | 48.4 micro mol, 20.0 mg | C1(=CC=C(C=C1)S(=O)(=O)OC=1C[C@H]2N(C1C(=O)OCC1=CC=CC=C1)C(C2)=O)C | C21H19NO6S
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | acetonitrile | 1.0 ml | C(C)#N | C2H3N
solvent | dichloromethane | 0.2 ml | ClCCl | CH2Cl2
product | benzyl-2-azido-carbapen-2-em-3-carboxylate | 9.2 mg, 67% | C(C1=CC=CC=C1)OC(=O)C1=C(C[C@H]2N1C(C2)=O)N=[N+]=[N-] | C14H12N4O3
